US09301951B2
N1-(2-((S)-2-(2,5,8,11,14,17,20,23-octaoxapentacosan-25-ylcarbamoyl)pyrrolidin-1-yl)ethyl)-N3-(4-(diethylamino)-2-(4-(((S)-1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)-N1-methylisophthalamide
This compound was prepared according to the procedure described for the synthesis of N1-(2-((S)-2-(2,5,8,11,14,17,20,23-octaoxapentacosan-25-ylcarbamoyl)pyrrolidin-1-yl)ethyl)-N1-methyl-N3-(4-(piperidin-1-yl)-2-(4-(((S)-1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)isophthalamide Example 195, using (S)—N1-(4-(diethylamino)-2-(4-((1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)-N3-methyl-N3-(2-oxoethyl)isophthalamide in place of (S)—N1-methyl-N1-(2-oxoethyl)-N3-(4-(piperidin-1-yl)-2-(4-((1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)isophthalamide. MS (ES, m/z): 1082.52 [M+H]+.

reactant | N1-(2-((S)-2-(2,5,8,11,14,17,20,23-octaoxapentacosan-25-ylcarbamoyl)pyrrolidin-1-yl)ethyl)-N1-methyl-N3-(4-(piperidin-1-yl)-2-(4-(((S)-1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)isophthalamide | COCCOCCOCCOCCOCCOCCOCCOCCNC(=O)[C@H]1N(CCC1)CCN(C(C1=CC(C(=O)NC2=C(C=C(C=C2)N2CCCCC2)C2=NC=CC(=C2)C(N[C@H]2CCCC3=CC=CC=C23)=O)=CC=C1)=O)C | C60H83N7O12
reactant | (S)—N1-(4-(diethylamino)-2-(4-((1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)-N3-methyl-N3-(2-oxoethyl)isophthalamide | C(C)N(C1=CC(=C(C=C1)NC(C1=CC(C(=O)N(CC=O)C)=CC=C1)=O)C1=NC=CC(=C1)C(N[C@H]1CCCC2=CC=CC=C12)=O)CC | C37H39N5O4
product | N1-(2-((S)-2-(2,5,8,11,14,17,20,23-octaoxapentacosan-25-ylcarbamoyl)pyrrolidin-1-yl)ethyl)-N3-(4-(diethylamino)-2-(4-(((S)-1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)-N1-methylisophthalamide | COCCOCCOCCOCCOCCOCCOCCOCCNC(=O)[C@H]1N(CCC1)CCN(C(C1=CC(C(=O)NC2=C(C=C(C=C2)N(CC)CC)C2=NC=CC(=C2)C(N[C@H]2CCCC3=CC=CC=C23)=O)=CC=C1)=O)C | C59H83N7O12
